US05434186
Using the procedure of example 29, except that methanol was used as the solvent, (E)-3-[3-[[5-(acetyloxy)pentyl]oxy]phenyl]-2-propenoic acid methyl ester was hydrogenated giving 3-[[5-(acetyloxy)pentyl]oxy]benzenepropanoic acid methyl ester as a pale-yellow oil, in 97% yield.

reactant | (E)-3-[3-[[5-(acetyloxy)pentyl]oxy]phenyl]-2-propenoic acid methyl ester | COC(\C=C\C1=CC(=CC=C1)OCCCCCOC(C)=O)=O | C17H22O5
solvent | methanol | CO | CH4O
product | 3-[[5-(acetyloxy)pentyl]oxy]benzenepropanoic acid methyl ester | 97% yield | COC(CCC1=CC(=CC=C1)OCCCCCOC(C)=O)=O | C17H24O5
